US04251528
A mixture of 7-methoxy-1,2-dihydro-1-oxophthalazin-4-ylcarboxylic acid (10.0 g.), sodium hydrogen carbonate (15.0 g.) and methyl iodide (15.0 ml.) in dry dimethylformamide (200 ml.) was stirred at room temperature for 16 hours. The mixture was then poured into water (600 ml.). The precipitated solid was separated, washed first with water then cold methanol, and then recrystallised from methanol to give methyl 7-methoxy-1,2-dihydro-1-oxophthalazin-4-ylcarboxylate (8.6 g.), m.p. 222°-225° C.

reactant | 7-methoxy-1,2-dihydro-1-oxophthalazin-4-ylcarboxylic acid | 10.0 g | COC1=CC=C2C(=NNC(C2=C1)=O)C(=O)O | C10H8N2O4
reactant | sodium hydrogen carbonate | 15.0 g | C(O)([O-])=O.[Na+]
reactant | methyl iodide | 15.0 ml | CI | CH3I
reactant | water | 600 ml | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | methyl 7-methoxy-1,2-dihydro-1-oxophthalazin-4-ylcarboxylate | 8.6 g | COC1=CC=C2C(=NNC(C2=C1)=O)C(=O)OC | C11H10N2O4
